US08492548B2
2-Bromo-1-(4-nitrophenyl)ethanone (290 mg, 1.19 mmol) was added to a solution of (R)—((R)-quinuclidin-3-yl) 2-phenyl-2-(phenylamino)acetate (diastereomer 1 of I2) (400 mg, 1.19 mmol) in EtOAc (15 ml). The reaction mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into a Parr's vial and diluted with MeOH. Pd/C (cat amount; about 10 mg) was added, and reaction is hydrogenated at 35 pound per square inch (psi) for 8 hours (UPLC-MS: complete conversion). The catalyst was removed by filtration, and the clear solution was concentrated under vacuum. The residue was triturated with Et2O and filtered to obtain (R)-1-(2-(4-aminophenyl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide (632 mg, 97% yield).

reactant | 2-Bromo-1-(4-nitrophenyl)ethanone | 1.19 mmol, 290 mg | BrCC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H6BrNO3
reactant | (R)—((R)-quinuclidin-3-yl) 2-phenyl-2-(phenylamino)acetate | 1.19 mmol, 400 mg | C1(=CC=CC=C1)[C@H](C(=O)O[C@H]1CN2CCC1CC2)NC2=CC=CC=C2 | C21H24N2O2
solvent | EtOAc | 15 ml | CCOC(=O)C | C4H8O2
solvent | MeOH | CO | CH4O
catalyst | Pd/C | about 10 mg | [Pd] | Pd
product | (R)-1-(2-(4-aminophenyl)-2-oxoethyl)-3-((R)-2-phenyl-2-(phenylamino)acetoxy)-1-azoniabicyclo[2.2.2]octane bromide | 632 mg, 97% yield | [Br-].NC1=CC=C(C=C1)C(C[N+]12C[C@@H](C(CC1)CC2)OC([C@H](NC2=CC=CC=C2)C2=CC=CC=C2)=O)=O | InChI=1S/C29H31N3O3.BrH/c30-24-13-11-21(12-14-24)26(33)19-32-17-15-22(16-18-32)27(20-32)35-29(34)28(23-7-3-1-4-8-23)31-25-9-5-2-6-10-25;/h1-14,22,27-28,31H,15-20H2,(H-,30,33);1H/t22?,27-,28+,32?;/m0./s1
